US07612099B2
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and N-[2-(6-ethyl-1H-indol-3-yl)-ethyl]-acetamide to give N-(2-{6-ethyl-2-[(2-hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-acetamide as a pale brown solid. MS: 493.1 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(6-ethyl-1H-indol-3-yl)-ethyl]-acetamide | C(C)C1=CC=C2C(=CNC2=C1)CCNC(C)=O | C14H18N2O
product | N-(2-{6-ethyl-2-[(2-hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-acetamide | C(C)C1=CC=C2C(=C(NC2=C1)C(C1=CC=CC=C1)C1=C(C(CC1=O)C1=CC=CC=C1)O)CCNC(C)=O | C32H32N2O3
